US07662812B2
N-{4-[6-(8-Methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenyl}acetamide (Compound B2)
Was prepared according to Method B from 3-(6-bromo-pyridazin-3-yl)-8-methyl-3,8-diaza-bicyclo[3.2.1]octane and N-(4-ethynyl-phenyl)-acetamide. Mp 292° C.

reactant | 3-(6-bromo-pyridazin-3-yl)-8-methyl-3,8-diaza-bicyclo[3.2.1]octane | BrC1=CC=C(N=N1)N1CC2CCC(C1)N2C | C11H15BrN4
reactant | N-(4-ethynyl-phenyl)-acetamide | C(#C)C1=CC=C(C=C1)NC(C)=O | C10H9NO
product | N-{4-[6-(8-Methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenyl}acetamide | CN1C2CN(CC1CC2)C2=CC=C(N=N2)C#CC2=CC=C(C=C2)NC(C)=O | C21H23N5O
